US09422312B2
Step 3: N′-{4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}-N,N-dimethyl-methanesulfonimidamide
A mixture of (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol (1.00 g), N′-(4-bromophenyl)-N,N-dimethyl-methanesulfonimidamide (484 mg), Na2CO3 (2 M aqueous solution, 1.98 mL), and ethanol (8 mL) is purged for 5 minutes with argon. [1,1′-Bis(diphenylphosphino)-ferrocene]-dichloropalladium(II)-CH2Cl2-complex (PdCl2(dppf)×CH2Cl2) (130 mg) is added and the mixture is stirred over night at 70° C. The reaction mixture concentrated in vacuo and the residue is purified by preparative HPLC to give the title compound. LC (method 1): tR=1.13 min; Mass spectrum (ESI+): m/z=700 [M+H]+.

reactant | (3R,3aR,6R,6aR)-6-(6-chloro-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | 1.00 g | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C30H41BClN3O7Si
reactant | N′-(4-bromophenyl)-N,N-dimethyl-methanesulfonimidamide | 484 mg | BrC1=CC=C(C=C1)N=S(=O)(N(C)C)C | C9H13BrN2OS
reactant | Na2CO3 | 2 M, 1.98 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | N′-{4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}-N,N-dimethyl-methanesulfonimidamide | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)N=S(=O)(N(C)C)C)N2COCC[Si](C)(C)C | C33H42ClN5O6SSi
